US05607898
3.2 Grams (24 mmol) of anhydrous aluminum chloride was suspended in 20 ml of methylene chloride, and a solution of 1.9 g (24 mmol) of acetyl chloride in 10 ml of methylene chloride was dropwise added with cooling with ice. The mixture was stirred until the reaction mixture was homogeneous, and a solution of 4.5 g (20 mmol) of 5-chloro-4,4,8-trimethylthiochroman in 10 ml of methylene chloride was added. The mixture was allowed to react at room temperature for 1 hour. After the completion of the reaction, the reaction mixture was poured into ice water and extracted with methylene chloride. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The methylene chloride was distilled off under reduced pressure, and the resultant oily substance was purified by silica gel column chromatography to give 3.0 g (yield 56%) of 6-acetyl-5-chloro-4,4,8-trimethylthiochroman.

reactant | aluminum chloride | 24 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 24 mmol, 1.9 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-chloro-4,4,8-trimethylthiochroman | 20 mmol, 4.5 g | ClC1=C2C(CCSC2=C(C=C1)C)(C)C | C12H15ClS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-acetyl-5-chloro-4,4,8-trimethylthiochroman | 3.0 g, yield 56% | C(C)(=O)C=1C(=C2C(CCSC2=C(C1)C)(C)C)Cl | C14H17ClOS
